US06310056B1
To a solution of imidazo[5,1-b]thiazole (18.624 g) in dichloroethane (450 ml) was added 20.030 g of N-chlorosuccinimide, the mixture was heated in a bath at a temperature of 60-65° C. for 1 hour. After air cooling, insolubles were removed by filtration, and the solvent was removed under reduced pressure. The residue thus obtained was dissolved in 3.0 l of ethyl acetate, and washed three times with 3.0 l of distilled water. After the organic layer was dried over anhydrous magnesium sulfate and the magnesium sulfate was removed by filtration, the solvent was removed under reduced pressure. The solid product thus obtained was purified by column chromatography on silica gel (ethyl acetate) to give 2.020 g of 5,7-dichloroimidazo[5,1-b]thiazole as a pale brown powder from the fraction of Rf=0.85.

reactant | imidazo[5,1-b]thiazole | 18.624 g | S1C=2N(C=C1)C=NC2 | C5H4N2S
reactant | N-chlorosuccinimide | 20.030 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | dichloroethane | 450 ml | ClC(C)Cl | C2H4Cl2
solvent | ethyl acetate | 3.0 l | C(C)(=O)OCC | C4H8O2
product | 5,7-dichloroimidazo[5,1-b]thiazole | 2.020 g | ClC1=NC(=C2SC=CN21)Cl | C5H2Cl2N2S
